US05208343
(a) 3 (3-Pyridinyl) 1-phenyl 2 propen-1-one
To a suspension of 3 pyridinecarboxaldehyde (18.9 mL, 0.20 mol) and acetophenone (23.4 mL, 0.20 mol) in 200 mL water at room temperature with vigorous stirring was added dropwise 5% aqueous sodium hydroxide (200 mL) over a 45-minute period. The reaction mixture was stirred for 12 hours. White solid was formed during the reaction. Dichloromethane (500 mL) was added to dissolve the solid. The organic layer was separated, washed with water (300 mL×3), and dried over anhydrous sodium sulfate. After the drying agent and solvent were removed, the crude product was recrystallized to give the title compound as yellow solid (35.62 g, 85%), mp 113°-114° C.

reactant | pyridinecarboxaldehyde | 0.20 mol, 18.9 mL | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetophenone | 0.20 mol, 23.4 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | 200 mL | [OH-].[Na+]
reactant | Dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | (3-Pyridinyl) 1-phenyl 2 propen-1-one | 35.62 g, 85% | N1=CC(=CC=C1)C(C(=O)C1=CC=CC=C1)=C | C14H11NO
